US08877782B2
N-Isopropyl-6-(5-methyl-3-pyridin-3-yl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 155, 6-(5-methyl-3-pyridin-3-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (130 mg, 0.4 mmol), was converted, using isopropylamine instead of 2,2,2-trifluoroethylamine, to the title compound (112 mg, 83%) which was obtained as an off white solid. MS: m/e=353.0 [M+H]+.

reactant | 6-(5-methyl-3-pyridin-3-yl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.4 mmol, 130 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C=1C=NC=CC1)=O | C17H15N3O4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | N-Isopropyl-6-(5-methyl-3-pyridin-3-yl-isoxazol-4-ylmethoxy)-nicotinamide | 112 mg, 83% | C(C)(C)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C=1C=NC=CC1)=O | C19H20N4O3
